US05234946
Production of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-[3-(1,3,4-oxadiazol-2-yl)benzyloxy]benzylamine (compound 171)
173 mg of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-(3-methoxycarbonylbenzyloxy)benzylamine was dissolved in 3 ml of ethanol, and 100 mg of 98% hydrazine hydrate was added. The mixture was heated under reflux for 3 hours. After the reaction mixture was evaporated under reduced pressure, water and ethyl acetate were added to the residue to extract it. The organic layer was separated and dried over anhydrous sodium sulfate. The desiccant was separated by filtration and the solvent was evaporated. The residual carbohydrazide was added to 4 ml of trimethyl orthoformate and the mixture was heated under reflux for 8 hours. After evaporating the excess trimethyl orthoformate, the residue was extracted with a mixture of ethyl acetate and water. The organic layer was separated and dried over anhydrous sodium sulfate. The desiccant was separated by filtration and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography Wakogel C-200, 30 g; eluting solvent: hexane/ethyl acetate=2/1] and medium-pressure liquid chromatography column: Lobar column, size A, Lichroprep Si 60 (E. Merck Co.); eluting solvent: hexane/ethyl acetate=3/1→2/1) to give 18 mg (yield 10%) of the captioned compound as a colorless oil.

reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-(3-methoxycarbonylbenzyloxy)benzylamine | 173 mg | CC(C#C/C=C/CN(C)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C(=O)OC)(C)C | C26H31NO3
reactant | hydrazine hydrate | 100 mg | O.NN
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-[3-(1,3,4-oxadiazol-2-yl)benzyloxy]benzylamine | 18 mg, yield 10% | CC(C#C/C=C/CN(C)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C=1OC=NN1)(C)C | C26H29N3O2
